US07728003B2
Step A. 2-(3-Imidazol-1-yl-propylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 1(Step F) the title compound was prepared from 3-imidazol-1-yl-propylamine (4.4 μL, 0.036 mmol) and 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (from Example 1(Step E), 15 mg, 0.036 mmol). 19.2 mg of 2-(3-imidazol-1-yl-propylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ (ppm): 9.22 (s, 1H), 8.45 (s, 1H), 7.50 (br, 1H), 7.32 (d, 1H), 7.22 (s, 1H), 7.15 (d, 1H), 7.03 (br, 1H), 6.78 (br, 1H), 6.10 (br, 1H), 4.36 (q, 2H), 3.75 (m, 2H), 3.10 (m, 2H), 2.97 (m, 4H), 2.14 (m, 2H), 1.92 (m, 2H), 1.40 (t, 3H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C25H26N6O3: 459.21 (M+H). Found: 459.4.

reactant | 3-imidazol-1-yl-propylamine | 0.036 mmol, 4.4 μL | N1(C=NC=C1)CCCN | C6H11N3
reactant | 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
product | 2-(3-imidazol-1-yl-propylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 19.2 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCCN2C=NC=C2)N(C1)C=1C=C2CCCC2=CC1)=O | C25H26N6O3
